US06177440B1
A solution of the {9-[(3-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester (35.6 mg, 0.077 mM) in 2 mL of trifluoroacetic acid was stirred at room temperature for 6 hours. The solvent was removed in vacuo. The residue was triturated with ethyl acetate, then dried in vacuo to afford 31.4 mg (100%) of the {9-[(3-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid as a white powder. 1H NMR (DMSO-d6) δ 13.0 (br s, 1H), 7.75 (s, 1H), 7.6 (d, 1H, J=8 Hz), 7.4-7.25 (m, 7H), 7.2 (d, 1H, J=8 Hz), 7.0 (br t, 1H), 6.6 (d, 1H, J=8 Hz), 5.7 (s, 2H), and 4.8 (s, 2H). IR (KBr, cm−1) 3456, 3416, 3335, 1735, 1638, 1617, 1580, 1499, 1452, 1431, 1431, 1329, 1255, 1157, 772, 764, and 717. MS (ES) m/e 407, 409, 411.

reactant | {9-[(3-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 0.077 mM, 35.6 mg | ClC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C26H25ClN2O4
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {9-[(3-chlorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid | 31.4 mg, 100% | ClC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O | C22H17ClN2O4
